US04579866
Methyl 4-Benzyloxy-3-Chlorophenylacetate
A mixture of 8.7 g (43.4 mmoles) of methyl 3-chloro-4-hydroxyphenylacetate, 6.2 g (44.8 mmoles) of powdered anhydrous potassium carbonate, 7.6 g (44.6 mmoles) of benzyl bromide, and 25 ml of methyl ethyl ketone was refluxed for six hours.

reactant | methyl 3-chloro-4-hydroxyphenylacetate | 43.4 mmoles, 8.7 g | ClC=1C=C(C=CC1O)CC(=O)OC | C9H9ClO3
reactant | potassium carbonate | 44.8 mmoles, 6.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 44.6 mmoles, 7.6 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | methyl ethyl ketone | 25 ml | C(C)C(=O)C | C4H8O
product | Methyl 4-Benzyloxy-3-Chlorophenylacetate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CC(=O)OC)Cl | C16H15ClO3
